US07985769B2
3-(4-Chlorobenzoylamino)-5-phenyl-thiophene-2-carboxylic acid
To a mixture of 3-(4-Chloro-benzoylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester (30 mg, 0.081 mmol) in 1 ml of a 3:2:1 solution made with tetrahydrofuran, methanol and water respectively was added lithium hydroxide monohydrated (20 mg, 0.484 mmol). The mixture was stirred 30 minutes at 60 C, cooled to room temperature, diluted with water and washed with ether (2×). The collected aqueous layer was then acidified with KHSO4 20% to pH 3 and extracted with ethyl acetate (3×). The combined ethyl acetate layers were washed with brine, dried (Na2SO4) and concentrated. The resulting crude was taken in ethyl acetate and reexctracted with NaOH 0.5 N (2×). The combined aqueous layers were then back-washed with ethyl acetate and acidified to pH3 with KHSO4 20% and back-extracted with ethyl acetate (2×). The combined organic layers were washed with brine and dried (Na2SO4). 1H NMR (DMSO-d6, 400 MHz) 8.35 (s, 1H), 8.02-7.99 (m, 2H), 7.71-7.68 (m, 2H), 7.56-7.53 (m, 2H), 7.43-7.39 (m, 2H), 7.35-7.31 (m, 1H).

reactant | 3-(4-Chloro-benzoylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.081 mmol, 30 mg | COC(=O)C=1SC(=CC1NC(C1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1 | C19H14ClNO3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methanol | CO | CH4O
reactant | lithium hydroxide | [OH-].[Li+]
solvent | water | O | H2O
product | 3-(4-Chlorobenzoylamino)-5-phenyl-thiophene-2-carboxylic acid | ClC1=CC=C(C(=O)NC2=C(SC(=C2)C2=CC=CC=C2)C(=O)O)C=C1 | C18H12ClNO3S
